US08686022B2
(2R,4R)-4-methoxy-pyrrolidine-2-carboxylic acid hydrochloride
8.72 g 1-tert-butyl (2R,4R)-4-methoxy-pyrrolidine-1,2-dicarboxylate are dissolved in 60 ml of tetrahydrofuran, combined dropwise with 60 ml of a 6 M aqueous hydrochloric acid solution and stirred for 4 hours at ambient temperature. Then the solvents are eliminated in vacuo and the residue is taken up twice in 100 ml acetonitrile and the latter is in each case eliminated again in vacuo.

reactant | 1-tert-butyl (2R,4R)-4-methoxy-pyrrolidine-1,2-dicarboxylate | 8.72 g | CO[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (2R,4R)-4-methoxy-pyrrolidine-2-carboxylic acid hydrochloride | Cl.CO[C@@H]1C[C@@H](NC1)C(=O)O | InChI=1S/C6H11NO3.ClH/c1-10-4-2-5(6(8)9)7-3-4;/h4-5,7H,2-3H2,1H3,(H,8,9);1H/t4-,5-;/m1./s1
